US07923456B2
Step 2: 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-hydroxyethoxy)-amide
To a suspension of 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide (1.33 g, 3.05 mmol) in methanol (40 mL) was added aqueous hydrochloric acid (6.7 mL, 1M, 6.7 mmol). The reaction mixture was stirred at room temperature for 30 minutes then concentrated in vacuo to remove the methanol. The resultant residue was dissolved in 1:1 diethylether:ethyl acetate (30 mL) and aqueous saturated sodium hydrogen carbonate solution (30 mL) added. The resultant mixture was sonicated until a precipitate formed, the precipitate collected by filtration and washed with water then diethyl ether to yield the title compound as a yellow solid (1.12 g, 90%). LCMS (method A): RT=5.22 min, [M+H]+=409/411. 1H NMR (DMSO-d6, 400 MHz) 9.20 (1H, s), 8.07 (1H, s), 7.51 (1H, dd, J=10.86, 2.22 Hz), 7.44 (1H, s), 7.40 (1H, d, J=9.33 Hz), 7.16 (1H, ddd, J=8.61, 2.20, 1.07 Hz), 6.89 (1H, d, J=9.31 Hz), 6.50 (1H, t, J=8.84 Hz), 4.63 (1H, s), 3.65 (2H, t, J=4.79 Hz), 3.46 (3H, s).

reactant | 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-vinyloxyethoxy)-amide | 3.05 mmol, 1.33 g | C(=C)OCCONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C18H16BrFN4O3
reactant | hydrochloric acid | 6.7 mmol, 1M, 6.7 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 5-(4-Bromo-2-fluorophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (2-hydroxyethoxy)-amide | 1.12 g, 90% | OCCONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)Br)F)C=NC2 | C16H14BrFN4O3
